US05053086
The high nitrogen content solid is then added to form a uniform suspension. A catalyst such as dibutyltin dilaurate is also used. The solids ammonium 5-nitraminotetrazole and triaminoguanidinium 5-nitraminotetrazole, are synthesized by known methods. Aminoguanidinium 5,5'-bitetrazole is synthesized by dissolving 5,5'-bitetrazole (12.7g) and aminoguanidinium bicarbonate (12.5g) in boiling water (160 ml). The solution is filtered while hot and the filtrate rapidly chilled in an ice bath. The product is filtered off, washed twice with cold water and vacuum dried at 70° C., 25 mm to give a 91% (17.8g) yield of aminoguanidinium 5,5'-bitetrazole. The solid guanidinium 5,5'-bitetrazole is synthesized by adding a filtered solution of guanidinium bicarbonate (9.0g, 0.05 mole) in boiling water (75 ml) to a filtered boiling solution of 5,5'-bitetrazole (13.8g, 0.1 mole) in water (200 ml). The resulting solution is cooled rapidly in an ice-water bath. The white, crystalline product is removed by filtration, washed once with cold water and vacuum dried at 70° C., 25 mm to give a 95.6% (18.8g) yield of guanidinium 5,5'-bitetrazole.

reactant | dibutyltin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | ammonium 5-nitraminotetrazole | N([N+](=O)[O-])C1=NN=NN1.[NH4+]
reactant | triaminoguanidinium 5-nitraminotetrazole | N([N+](=O)[O-])C1=NN=NN1.N[NH+]=C(N(N)N)N
reactant | 5,5'-bitetrazole | 12.7g | N1=NN=NC1=C1N=NN=N1 | C2N8
reactant | aminoguanidinium bicarbonate | 12.5g | C([O-])(O)=O.NNC(=[NH2+])N
solvent | water | 160 ml | O | H2O
product | aminoguanidinium 5,5'-bitetrazole | N1=NN=NC1=C1N=NN=N1.NNC(=[NH2+])N | InChI=1S/C2N8.CH6N4/c3-1(4-8-7-3)2-5-9-10-6-2;2-1(3)5-4/h;4H2,(H4,2,3,5)/p+1
